US07153622B2
The example 21 was reproduced except that (R)-3-hydroxyoctanoyl CoA was replaced by (R)-3-hydroxy-5-phenylvaleryl CoA (prepared by hydrolyzing 3-hydroxy-5-phenylvaleric acid ester obtained by a Reformatsky reaction to obtain 3-hydroxy-5-phenylvaleric acid and then by the method described in Eur. J. Biochem., 250, 432–439(1997)) to obtain colorant 10.

reactant | (R)-3-hydroxyoctanoyl CoA | O[C@@H](CC(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O)CCCCC | C29H50N7O18P3S
reactant | (R)-3-hydroxy-5-phenylvaleryl CoA | O[C@@H](CC(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O)CCC1=CC=CC=C1 | C32H48N7O18P3S
product | 3-hydroxy-5-phenylvaleric acid | OC(CC(=O)O)CCC1=CC=CC=C1 | C11H14O3
